US04900828
A 22.0 L three-necked, round-bottomed flask equipped with mechanical stirrer, a thermometer and a condenser was placed in a large heating bath and charged with 1.55 kg (5.25 moles) of N-acetyl 2',3'-dideoxycytidine 5'-acetate 10.6 L of methanol, 3.1 L of triethylamine, and 1.56 L of deionized water. The heating bath was filled with hot water and the temperature was raised to 60°-65°. The flask contents were stirred at 55°-60° for 3 hr, then at ambient temperature for 12. The reaction mixture was concentrated in vacuo at 70°-80° (70 mm) on a large rotary evaporator to a volume of 2.5 L to induce crystallization. To the white semi-solid was added 1.5 L of absolute ethanol and again the mixture was concentrated in vacuo to 2.5 L volume to remove residual solvents. The white semi-solid was cooled to 10° C. for 0.5 hr and was collected by filtration and washed with 1.5 L of absolute ethanol. The damp white solid was recrystallized from 50.0 L of absolute ethanol at reflux and filtered through a sintered glass funnel to remove any particulate matter. The filtrate was concentrated in vacuo at 70°-80° (70 mm) on a rotary evaporator to a volume of 3.0 L. The semi-solid was then heated for 10 minutes without vacuum at reflux in the rotary evaporator. The mixture was cooled to 10° C. for 2 hr to effect crystallization and the white solid was collected by filtration, and washed with 2×1.0 L=2.0 L of absolute ethanol. The solid was dried in a vacuum oven at 85° C. and 1 mm overnight to yield 1.02 kg (92%) of 2',3'-dideoxycytidine as a white solid, m.p. 225°-228° C; [α]S25 +76.9° (c 0.56, H2O); [α]D25 +105.0° (c 0.50, CH3OH); lit. m.p. 215°-217°; [α]D25 +81° (c 0.635, H2O) [J. P. Horowitz, J. Chua, M. Noel, and J. T. Donatti, J. Org. Chem., 32, 817 (1967)]. The mother liquors from three batches were pooled and concentrated to a volume of 1.0 L to effect recrystallization. This solid was recrystallized from 5.0 L of absolute ethanol which was concentrated to a volume of 1.0 L to yield 2-4% additional 2',3'-dideoxycytidine. The second crop mother liquors were combined and purified by column chromatography on 70-230 mesh silica gel 60 using 65:1 methylene chloride-methanol-water as eluant. In this manner, cytosine, 5,6-dihydro-2',3'-deoxyuridine and 5,6-dihydrouracil were also isolated and characterized.

reactant | N-acetyl 2',3'-dideoxycytidine 5'-acetate | 5.25 moles, 10.6 L, 1.55 kg | C(C)(=O)OC[C@@H]1CC[C@@H](O1)N1C(=O)N=C(NC(C)=O)C=C1 | C13H17N3O5
reactant | methanol | CO | CH4O
reactant | triethylamine | 3.1 L | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | water | 1.56 L | O | H2O
product | 2',3'-dideoxycytidine | 1.02 kg, 92% | [C@@H]1(CC[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O3
